US08669234B2
2-[4-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1.0 g, 2.2 mmol) in THF (10 mL) was cooled to −78° C. and treated with t-BuLi (1.7 M in pentane, 2.7 mL, 4.6 mmol). The reaction mixture was stirred for 1 hour and treated with solid CO2 (500 mg). The mixture was warmed to ambient temperature and mixture was concentrated. The solution was dried over MgSO4 and subjected to a 120 g SiO2 COMBIFLASH column (0-100% EtOAc-hexanes followed by 0-20% MeOH-EtOAc gradient) to afford 2-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid (200 mg, 22%): MS (ESI) m/z 412 [M+H]+.

reactant | 2-[4-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.2 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1N(C=C(N1)Br)COCC[Si](C)(C)C | C18H32BrN3O3Si
reactant | t-BuLi | 4.6 mmol, 1.7 M, 2.7 mL | [Li]C(C)(C)C
reactant | CO2 | 500 mg | C(=O)=O | CO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid | 200 mg, 22% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1N(C=C(N1)C(=O)O)COCC[Si](C)(C)C | C19H33N3O5Si
